US07662828B2
Oxalyl chloride 1184 μl (13.8 mmol) and two drops of DMF were added to a solution of 3,5-dichlorobenzoic acid 527 mg (2.76 mmol) in CH2Cl2 and stirring was performed for 1 h at RT under nitrogen as inert gas. After removal of the solvent, the 3,5-dichlorobenzoyl chloride was dissolved in pyridine (30 ml). 2-Amino-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester 599 mg (2.39 mmol) was added to this solution at 0° C. and stirring was performed for 2 h at 0° C. and then for 2 h at RT under nitrogen as inert gas. After the addition of aqueous 1 M NaOH (40 ml) and stirring for 20 minutes, CH2Cl2 (50 ml) was added and the aqueous phase extracted with CH2Cl2 (3×20 ml). The combined organic phases were dried over Na2SO4. After filtration and removal of the solvent, purification was performed by means of column chromatography and the product 2-(3,5-dichloro-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester 573 mg (1.35 mmol, 57% of theoretical) was obtained.

reactant | Oxalyl chloride | 13.8 mmol, 1184 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,5-dichlorobenzoic acid | 2.76 mmol, 527 mg | ClC=1C=C(C(=O)O)C=C(C1)Cl | C7H4Cl2O2
reactant | 2-Amino-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | 2.39 mmol, 599 mg | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)N)CC1 | C12H18N4O2
reactant | NaOH | 1 M, 40 ml | [OH-].[Na+]
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,5-dichloro-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | 1.35 mmol, 573 mg, 57% | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)NC(C2=CC(=CC(=C2)Cl)Cl)=O)CC1 | C19H20Cl2N4O3
